US07855219B2
N-{4-[2-Amino-6-(benzyloxy)-3,5-dicyano-4-pyridinyl]phenyl}acetamide
58 mg (0.15 mmol) of N-{4-[2-amino-3,5-dicyano-6-(phenylsulfanyl)-4-pyridinyl]phenyl}acetamide [prepared analogously to Kambe et al., Synthesis, 531-533 (1981)] are, together with 41 mg (0.3 mmol) of potassium carbonate, dissolved/suspended in 1.88 g (=1.8 ml, 17.4 mmol) of benzyl alcohol, and the mixture is stirred at 100° C. for 3.5 h. The benzyl alcohol is evaporated under reduced pressure and the evaporation residue is purified by preparative HPLC on reversed-phase silica gel (gradient: water/acetonitrile 90:1010:90 in 38 minutes).

reactant | N-{4-[2-amino-3,5-dicyano-6-(phenylsulfanyl)-4-pyridinyl]phenyl}acetamide | 0.15 mmol, 58 mg | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)NC(C)=O)C#N)SC1=CC=CC=C1 | C21H15N5OS
reactant | potassium carbonate | 0.3 mmol, 41 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl alcohol | 17.4 mmol, 1.8 ml, 1.88 g | C(C1=CC=CC=C1)O | C7H8O
product | N-{4-[2-Amino-6-(benzyloxy)-3,5-dicyano-4-pyridinyl]phenyl}acetamide | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)NC(C)=O)C#N)OCC1=CC=CC=C1 | C22H17N5O2
